US04977159
6.5. 2-{[(3-Methylbenzoyl)-4-piperidyl]methyl}-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole
1.7 g (10 mmol) of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole, 3,9 g (10 mmol) of [1-(3-methylbenzoyl)-4-piperidyl]methyl 4-methylbenzenesulphonate, 2.9 g (20 mmol) of potassium carbonate and 25 ml of dimethylformamide are introduced under an argon atmosphere into a 100-ml round-bottomed flask. The mixture is stirred at 100° C. for 5 h and hydrolysed, and the aqueous phase extracted with ethyl acetate. The organic phase is washed with water and then with saturated aqueous sodium chloride solution and dried over sodium sulphate, and the solvents are evaporated off under reduced pressure. The residue is purified by chromatography on a silica column, eluting with a 9:1 dichloromethane/methanol mixture, and, after recrystallization in ethyl acetate, 1.2 g of pure base are obtained.

reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 10 mmol, 1.7 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | [1-(3-methylbenzoyl)-4-piperidyl]methyl 4-methylbenzenesulphonate | 10 mmol, 3,9 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1CCN(CC1)C(C1=CC(=CC=C1)C)=O | C21H25NO4S
reactant | potassium carbonate | 20 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-{[(3-Methylbenzoyl)-4-piperidyl]methyl}-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 1.2 g | CC=1C=C(C(=O)N2CCC(CC2)CN2CC=3NC4=CC=CC=C4C3CC2)C=CC1 | C25H29N3O
